US08580962B2
1,1-Difluoro-4-methylenecyclohexane (Compound 90a)
A methyl triphenyl phosphonium bromide/sodium amide mixture (MTP instant ylide, 0.49 g, 1.24 mmol) was suspended in anhydrous Et2O (3 mL) stirring for 1 h at r.t. Afterwards, the reaction mixture was cooled at 0° C. and a solution of 4,4-difluorocyclohexanone (0.145 g, 1.08 mmol) in 3 mL of Et2O was added dropwise into. Stirring at r.t. was maintained for 16 h, then the reaction mixture was filtered and the filtrate was used in the next step without further purification.

reactant | methyl triphenyl phosphonium bromide sodium amide | 1.24 mmol, 0.49 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[NH2-].[Na+]
reactant | 4,4-difluorocyclohexanone | 1.08 mmol, 0.145 g | FC1(CCC(CC1)=O)F | C6H8F2O
solvent | Et2O | 3 mL | CCOCC | C4H10O
solvent | Et2O | 3 mL | CCOCC | C4H10O
product | 1,1-Difluoro-4-methylenecyclohexane | FC1(CCC(CC1)=C)F | C7H10F2
